US07253164B2
Following a similar N-alkylation procedure described in example 6, the (2-oxo-1,2,3,4-tetrahydro-quinolin-3-yl)-acetic acid methyl ester (0.99 mmol) is alkylated with tert-butyl bromoacetate to give (1-tert-butoxycarbonylmethyl-2-oxo-1,2,3,4-tetrahydro-quinolin-3-yl)-acetic acid methyl ester as a colorless oil, after purification by silica gel chromatography (hexane/EtOAc). Yield: 89%. MS: (ES+): 356.2 [M+23].

reactant | (2-oxo-1,2,3,4-tetrahydro-quinolin-3-yl)-acetic acid methyl ester | 0.99 mmol | COC(CC1C(NC2=CC=CC=C2C1)=O)=O | C12H13NO3
reactant | tert-butyl bromoacetate | BrCC(=O)OC(C)(C)C | C6H11BrO2
product | (1-tert-butoxycarbonylmethyl-2-oxo-1,2,3,4-tetrahydro-quinolin-3-yl)-acetic acid methyl ester | Yield: 89% | COC(CC1C(N(C2=CC=CC=C2C1)CC(=O)OC(C)(C)C)=O)=O | C18H23NO5
